US08071600B2
A DMF solution of 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazole-3-carboxylic acid (0.3 g, 0.75 mmol) was cooled on ice and triethylamine (0.73 ml, 5.2 mmol), methylamine hydrochloride (0.3 g, 4.5 mmol) and diethylphosphorocyanidate (DEPC)(0.25 ml, 1.4 mmol) were added thereto, and then, the mixture was stirred at room temperature for 24 hours. To the reaction solution, triethylamine (0.73 ml, 5.2 mmol), methylamine hydrochloride (0.3 g, 4.5 mmol) and DEPC (0.25 ml, 1.4 mmol) were added and the mixture was stirred at room temperature for 4 days. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extracted material was washed with water and dried over magnesium sulfate. The solution was concentrated under reduced pressure and the residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=5:1-+ethyl acetate). The purified product was concentrated under reduced pressure and the residue was dissolved in ethyl acetate and a solution of 4N-hydrochloric acid/ethyl acetate was added thereto. The insoluble matter precipitated was obtained by filtration and dried to obtain N-methyl-5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazole-3-carboxamide hydrochloride (0.24 g) as white powder.

reactant | 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazole-3-carboxylic acid | 0.75 mmol, 0.3 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NN2C)C(=O)O | C20H24N4O3S
reactant | triethylamine | 5.2 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 4.5 mmol, 0.3 g | Cl.CN
reactant | diethylphosphorocyanidate | 1.4 mmol, 0.25 ml | C(C)OP(OCC)(=O)C#N | C5H10NO3P
reactant | triethylamine | 5.2 mmol, 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 4.5 mmol, 0.3 g | Cl.CN
reactant | DEPC | 1.4 mmol, 0.25 ml | C(C)OP(OCC)(=O)C#N | C5H10NO3P
solvent | Water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-methyl-5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazole-3-carboxamide hydrochloride | 0.24 g | Cl.CNC(=O)C1=NN(C(=C1)OCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)C | InChI=1S/C21H27N5O2S.ClH/c1-22-21(27)17-15-20(24(2)23-17)28-13-4-8-25-9-11-26(12-10-25)18-5-3-6-19-16(18)7-14-29-19;/h3,5-7,14-15H,4,8-13H2,1-2H3,(H,22,27);1H
